US04567264
To 2-methoxyphenol(76 g) dissolved in about 60 ml of water and 200 ml of dioxane containing 29 g of sodium hydroxide is slowly added a large excess of epichlorohydrin (80 g). The solution is stirred at reflux temperature for 3 hrs. The mixture is diluted with ether, washed with two portions of water and dried using anhydrous magnesium sulfate. Evaporation of the dried extract, followed by distillation of the residue produced the product, 1-(2-methoxyphenoxy)-2,3-epoxypropane.

reactant | 2-methoxyphenol | 76 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | dioxane | 200 ml, 29 g | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | epichlorohydrin | 80 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | about 60 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-(2-methoxyphenoxy)-2,3-epoxypropane | COC1=C(OCC2CO2)C=CC=C1 | C10H12O3
